US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl)]phenyl-2-(2-furyl)-2-oxoacetamide
2-(2-Furyl)-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature for 4 h. After neutralization with aqueous NaHCO3, the crude product was extracted in ethyl acetate and purified by preparative HPLC (0.0048 g, 5% yield over 2 steps): 1H NMR (CD3OD) δ 8.80 (s, 1H), 8.43 (d, 1H), 8.11 (br s, 1H), 8.10 (d, 1H), 8.01 (s, 1H), 7.94 (d, 1H), 7.87 (d, 1H), 7.72 (br d, 1H), 7.58 (t, 1H), 6.77 (dt, 1H); ES-MS (m/z) 399.

reactant | 2-(2-Furyl)-2-oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | O1C(=CC=C1)C(C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)=O | C45H36N6O4
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl)]phenyl-2-(2-furyl)-2-oxoacetamide | 5% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C(=O)C=1OC=CC1)=O | C21H14N6O3
